US20010047026A1
8-Trifluoromethoxy-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid
In a manner similar to Example 17, 1-oxo-indan-4-carboxylic acid (1.00 g, 5.68 mmol) and 4-trifluoromethoxyphenylhydrazine hydrochloride (1.30 g, 5.68 mmol) were converted to the title compound (0.160 g, 8%) as an light tan solid: mp 256-265 (dec)° C; 1H NMR (DMSO-d6): δ 4.03 (s, 2H), 7.05-7.08 (m, 1H), 7.49 (d, 1H), 7.53 (d, 1H), 7.61 (d, 1H), 7.79-7.83 (m, 2H), 11.92 (s, 1H), 13.08 (s, 1H); MS [EI, m/z]: 333 [M]+.

reactant | 1-oxo-indan-4-carboxylic acid | 5.68 mmol, 1.00 g | O=C1CCC=2C(=CC=CC12)C(=O)O | C10H8O3
reactant | 4-trifluoromethoxyphenylhydrazine hydrochloride | 5.68 mmol, 1.30 g | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
product | 8-Trifluoromethoxy-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid | 0.160 g, 8% | FC(OC1=CC=2C3=C(NC2C=C1)C=1C=CC=C(C1C3)C(=O)O)(F)F | C17H10F3NO3
